US03962357
Finally the art teaches in U.S. Pat. No. 2,780,604 that chloromethyl vinyl benzene can be prepared via a two step liquid phase reaction whereby isopropyl toluene is chlorinated via ultraviolent light and the subsequently distilled chloromethyl chloroisopropyl benzene is dehydrohalogenated with heat to give chloromethylisopropenylbenzene.

reactant | chloromethyl vinyl benzene | ClCC1=C(C=CC=C1)C=C | C9H9Cl
reactant | isopropyl toluene | C(C)(C)C1=C(C=CC=C1)C | C10H14
reactant | chloromethyl chloroisopropyl benzene | ClCC=1C(=C(C=CC1)C(C)C)Cl | C10H12Cl2
product | chloromethylisopropenylbenzene | ClCC1=C(C=CC=C1)C(=C)C | C10H11Cl
